US07253192B2
D] 2-Methyl-2-(4-methylaminomethyl-phenoxy)-propionic acid ethyl ester
A solution of 3.66 g (10 mmol) of the above prepared 2-{4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenoxy}-2-methyl-propionic acid ethyl ester in 50 ml dichloromethane was treated at 0° C. with 3.98 ml TFA and stirred at room temperature for 16 h. The reaction was evaporated and treated with ice water, neutralized with NaHCO3 (pH=8) and extracted dichloromethane (two times). The organic phases were washed with water, dried (MgSO4), and evaporated to give 2.77 g of crude product. Purification by flash chromatography on SiO2 with CH2Cl2/MeOH (95:5) yielded 1.95 g of the title compound as brown-yellow oil.

reactant | 2-{4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)CN(C)C(=O)OC(C)(C)C)=O | C19H29NO5
reactant | TFA | 3.98 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Methyl-2-(4-methylaminomethyl-phenoxy)-propionic acid ethyl ester | 1.95 g | C(C)OC(C(C)(OC1=CC=C(C=C1)CNC)C)=O | C14H21NO3
